US09447084B2
4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(2,2,2-trifluoroethyl)benzoic acid
Into a 50-mL pressure tank reactor (10 atm), was placed ethyl 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(2,2,2-trifluoroethyl)benzoate (300 mg, 0.55 mmol, 1.00 equiv), methanol (5 mL), sodium hydroxide (600 mg, 15.00 mmol, 13.69 equiv), water (5 mL). The resulting solution was stirred overnight at 70° C. The pH value of the solution was adjusted to 5 with hydrogen chloride (3 mol/L). The resulting solution was extracted with 3×10 ml of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×10 mL of brine. The mixture was dried over sodium sulfate and concentrated under vacuum. This resulted in 200 mg (crude) of 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(2,2,2-trifluoroethyl)benzoic acid as yellow oil.

reactant | ethyl 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(2,2,2-trifluoroethyl)benzoate | 0.55 mmol, 300 mg, 1.00 equiv | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C(=O)OCC)C=C1)CC(F)(F)F)C(F)(F)F | C22H15ClF9NO3
reactant | methanol | 5 mL | CO | CH4O
reactant | sodium hydroxide | 15.00 mmol, 600 mg, 13.69 equiv | [OH-].[Na+]
reactant | hydrogen chloride | 3 mol/L | Cl | ClH
solvent | water | 5 mL | O | H2O
product | 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(2,2,2-trifluoroethyl)benzoic acid | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C(=O)O)C=C1)CC(F)(F)F)C(F)(F)F | C20H11ClF9NO3
